US04533731
The same procedures as described in Example 1 were repeated except that 4.50 g of 3-aminoindazole and 5.03 g of (1-methyl-3-bromopropyl)-morpholine hydrobromide were employed instead of the 5.66 g of 3-amino-4-chloroindazole and the 4.83 g of 3-bromopropyldiethylamine hydrobromide, respectively. As a result, 1-(3-morpholinobutyl)-3-aminoindazole having the following analytical values was obtained in a yield of 48%.

reactant | 3-aminoindazole | 4.50 g | NC1=NNC2=CC=CC=C12 | C7H7N3
reactant | (1-methyl-3-bromopropyl)-morpholine hydrobromide | 5.03 g | Br.CC(CCBr)N1CCOCC1
reactant | 3-amino-4-chloroindazole | 5.66 g | NC1=NNC2=CC=CC(=C12)Cl | C7H6ClN3
reactant | 3-bromopropyldiethylamine hydrobromide | 4.83 g | Br.BrCCCN(CC)CC
product | 1-(3-morpholinobutyl)-3-aminoindazole | yield of 48% | O1CCN(CC1)C(CCN1N=C(C2=CC=CC=C12)N)C | C15H22N4O
